US09120761B2
(h) tert-Butyl 4-(4-((4-(2-(2-amino-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-methoxyphenyl)piperidine-1-carboxylate (I23)
A solution of lithium 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-4-yl)-2-methoxyphenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate (I22) (210 mg, 0.338 mmol), HATU (257 mg, 0.676 mmol), ammonium chloride (362 mg, 6.76 mmol) and DIPEA (115 μL) in dry DMF (4 mL) was stirred at room temperature overnight. The volatiles were evaporated under reduced pressure and the residue diluted with ethyl acetate. The resulting solution was washed with 10% NaHCO3 then the organic layer dried (MgSO4). The volatiles were removed under reduced pressure and the residue chromatographed (SiO2, 0-100% ethyl acetate/petroleum benzine 40-60° C.) to give the title compound (I23) (185 mg, 89%) as a colourless solid; 1H NMR (400 MHz, CDCl3) δ 8.54 (s, 1H), 8.26 (d, J=8.3 Hz, 1H), 7.88 (s, 1H), 7.25 (dd, J=4.4, 2.4 Hz, 2H), 6.86 (dd, J=8.3, 1.7 Hz, 1H), 6.76 (d, J=1.7 Hz, 1H), 5.49 (d, J=39.2 Hz, 2H), 4.24 (s, 2H), 3.92 (s, 3H), 3.70 (s, 2H), 3.20-3.02 (m, 4H), 2.80 (m, 2H), 2.64 (s, 2H), 1.84 (d, J=12.8 Hz, 2H), 1.62 (dd, J=12.3, 3.5 Hz, 2H), 1.49 (s, 9H). LCMS Method C: rt 6.64 min; m/z 636.2 [M+Na]+, 614.1 [M+1]+, 612.2 [M−1]−, 558.2 [M-t-Bu+2]+.

reactant | lithium 2-(2-(2-(2-((4-(1-(tert-butoxycarbonyl)piperidin-4-yl)-2-methoxyphenyl)amino)-5-(trifluoromethyl)pyrimidin-4-yl)ethyl)phenyl)acetate | 0.338 mmol, 210 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC(=C(C=C1)NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)[O-])C(F)(F)F)OC.[Li+]
reactant | HATU | 0.676 mmol, 257 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | ammonium chloride | 6.76 mmol, 362 mg | [Cl-].[NH4+]
reactant | DIPEA | 115 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(4-((4-(2-(2-amino-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-methoxyphenyl)piperidine-1-carboxylate | NC(CC1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=C(C=C(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C)OC)C=CC=C1)=O | C32H38F3N5O4
